US09108938B2
2,3-dichloro-N-[2-(4,4-difluoro-1-piperidyl)-2-(4-methoxyphenyl)ethyl]benzamide
From 2,3-dichlorobenzoic acid and 2-(4-methoxy-phenyl)-2-(4,4-difluoro-piperidin-1-yl)-ethylamine.

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(4-methoxy-phenyl)-2-(4,4-difluoro-piperidin-1-yl)-ethylamine | COC1=CC=C(C=C1)C(CN)N1CCC(CC1)(F)F | C14H20F2N2O
product | 2,3-dichloro-N-[2-(4,4-difluoro-1-piperidyl)-2-(4-methoxyphenyl)ethyl]benzamide | ClC1=C(C(=O)NCC(C2=CC=C(C=C2)OC)N2CCC(CC2)(F)F)C=CC=C1Cl | C21H22Cl2F2N2O2
